US07713994B2
5-Aminomethyl-2-iodo-phenol
To a solution of 3-Hydroxy-4-iodo-benzonitrile (300 mg, 1.22 mmol) in THF (5 mL) is added BH3.THF (10 mL, 1 M solution in THF, 10 mmol) under N2. The mixture is then allowed to stir at room temperature for 24 hours. The reaction is quenched with 6N HCl. THF is removed and the aqueous layer is neutralized with ammonium hydroxide to pH 9. The mixture is extracted with CHCl3/MeOH (9:1). The organic layer dried and evaporated and the residue is chromatographed to provide the desired product (60 mg, 20%). MS (ESI): 250 (M+1)−1.

reactant | 3-Hydroxy-4-iodo-benzonitrile | 1.22 mmol, 300 mg | OC=1C=C(C#N)C=CC1I | C7H4INO
reactant | BH3.THF | 10 mmol, 1 M, 10 mL | B.C1CCOC1
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-Aminomethyl-2-iodo-phenol | 60 mg, 20% | NCC=1C=CC(=C(C1)O)I | C7H8INO
